US04200648
2-methyl-3-chloroaniline (0.25 moles) and p-carboxybenzaldehyde (0.25 moles) were ground in a mortar. The mixture was heated, with stirring in a water bath for 1.5 hours. Distillation at reduced pressure gave N-(p-carboxybenzylidene)-2-methyl-3-chloroaniline as a second fraction.

reactant | 2-methyl-3-chloroaniline | 0.25 moles | CC1=C(N)C=CC=C1Cl | C7H8ClN
reactant | p-carboxybenzaldehyde | 0.25 moles | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
product | N-(p-carboxybenzylidene)-2-methyl-3-chloroaniline | C(=O)(O)C1=CC=C(C=NC2=C(C(=CC=C2)Cl)C)C=C1 | C15H12ClNO2
